US07615562B2
[4-(4-Pyridin-3-yl-phenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine
The title compound was prepared analogous to Step D of Example 172, starting from [4-(4-bromophenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine and 3-tributylstannanyl-pyridine. Yield: 45 mg (24%).

reactant | [4-(4-bromophenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | BrC1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C19H25BrN4
reactant | 3-tributylstannanyl-pyridine | C(CCC)[Sn](C=1C=NC=CC1)(CCCC)CCCC
product | [4-(4-Pyridin-3-yl-phenyl)-pyrimidin-2-yl]-(2,2,6,6-tetramethyl-piperidin-4-yl)-amine | N1=CC(=CC=C1)C1=CC=C(C=C1)C1=NC(=NC=C1)NC1CC(NC(C1)(C)C)(C)C | C24H29N5
